US09035073B2
Tert-butyl 3-(3-chloro-2-fluorophenyl)-3-hydroxypyrrolidine-1-carboxylate
Preparation according to Preparation 10: 1-Bromo-3-chloro-2-fluorobenzene (8 g, 38.3 mmol), dry diethyl ether (100 mL), n-hexyllithium (2.3 M in hexane, 16.64 ml, 38.3 mmol) and a solution of 1-N-boc-3-pyrrolidone (7.08 g, 38.3 mmol) in dry diethyl ether (50 mL). The crude product was purified by flash column chromatography (ethylacetate/isooctane, 1:9 to 1:1) to give the title compound (8.05 g, 66%). MS m/z (rel. intensity, 70 eV) 259 (20), 214 (42), 157 (26), 143 (23), 57 (bp).

reactant | 1-Bromo-3-chloro-2-fluorobenzene | 38.3 mmol, 8 g | BrC1=C(C(=CC=C1)Cl)F | C6H3BrClF
reactant | n-hexyllithium | 38.3 mmol, 2.3 M, 16.64 ml | C(CCCCC)[Li]
reactant | 1-N-boc-3-pyrrolidone | 38.3 mmol, 7.08 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Tert-butyl 3-(3-chloro-2-fluorophenyl)-3-hydroxypyrrolidine-1-carboxylate | 8.05 g, 66% | ClC=1C(=C(C=CC1)C1(CN(CC1)C(=O)OC(C)(C)C)O)F | C15H19ClFNO3
